US05705456
b) Dibenzyloxyacetic acid
Water (20 ml) and potassium carbonate (10.64 g) were added to a solution of benzyl dibenzyloxyacetate (11.15 g) in THF (80 ml) and the mixture heated under reflux for 24 hours. The mixture was allowed to cool, poured into water, extracted with ether, acidified with concentrated hydrochloric acid and again extracted with ether. The extract from acidic solution was washed with brine, dried (MgSO4) and evaporated under reduced pressure to give the sub-title compound (8.12 g), which was used crude in step c).

reactant | Water | 20 ml | O | H2O
reactant | potassium carbonate | 10.64 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl dibenzyloxyacetate | 11.15 g | C(C1=CC=CC=C1)OC(C(=O)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C23H22O4
solvent | THF | 80 ml | C1CCOC1 | C4H8O
product | Dibenzyloxyacetic acid | 8.12 g | C(C1=CC=CC=C1)OC(C(=O)O)OCC1=CC=CC=C1 | C16H16O4
